US05053416
3-(oxazol-2-yl)-1,2,5,6-tetrahydropyridine hydrochloride
4 g of 1-methyl-3-(oxazol-2-yl)-1,2,5,6-tetrahydropyridine in 80 cm3 of dichloroethane is cooled to -5° C. under inert atmosphere and 3.88 g of alpha-chloroethyl chloroformate is added. The mixture is heated under reflux for one hour 30 minutes, evaporated, the residue is taken up in diethylether, followed by filtering. The ethereal phase is concentrated, the residue is taken up in 30 cm3 of methanol, heated at boiling point for 40 minutes and evaporated to dryness. After crystallization from ethanol and ether, 2.1 g of expected product is obtained. M.p.=188°-191° C.

reactant | 1-methyl-3-(oxazol-2-yl)-1,2,5,6-tetrahydropyridine | 4 g | CN1CC(=CCC1)C=1OC=CN1 | C9H12N2O
reactant | alpha-chloroethyl chloroformate | 3.88 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 80 cm3 | ClC(C)Cl | C2H4Cl2
product | 3-(oxazol-2-yl)-1,2,5,6-tetrahydropyridine hydrochloride | 2.1 g | Cl.O1C(=NC=C1)C=1CNCCC1 | InChI=1S/C8H10N2O.ClH/c1-2-7(6-9-3-1)8-10-4-5-11-8;/h2,4-5,9H,1,3,6H2;1H
